US04421758
102 mg of α-bromomethyl-2,4-dichlorobenzyl alcohol and the 82 mg of 2-(4-chlorobenzyloxymethyl)-3,4-dihydro-2H-pyran prepared above were then dissolved in 2 ml of diethyl ether, and one drop of phosphorus oxytrichloride was then added. The mixture was then allowed to react at room temperature for 4 days, after which it was treated and the product purified essentially as described in Example 34(a), to give 121 mg of trans-6-(4-chlorobenzyloxymethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran.

reactant | α-bromomethyl-2,4-dichlorobenzyl alcohol | 102 mg | BrCC(C1=C(C=C(C=C1)Cl)Cl)O | C8H7BrCl2O
reactant | 2-(4-chlorobenzyloxymethyl)-3,4-dihydro-2H-pyran | 82 mg | ClC1=CC=C(COCC2OC=CCC2)C=C1 | C13H15ClO2
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
catalyst | phosphorus oxytrichloride | one drop | O=P(Cl)(Cl)Cl | Cl3OP
product | trans-6-(4-chlorobenzyloxymethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran | 121 mg | ClC1=CC=C(COC[C@H]2CCC[C@@H](O2)OC(CBr)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C21H22BrCl3O3
